US07645789B2
1-(Benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butyl-1-(1,3-dihydroxypropan-2-yl)indolin-5-yl)cyclopropanecarboxamide (40.3 mg, 0.0711 mmol as the trifluoracetic acid salt) was dissolved in toluene (1 mL). To the resulting solution was added 2,3,5,6-tetrachlorocyclohexa-2,5-diene-1,4-dione (35 mg, 0.14 mmol). The resulting suspension was heated at 100° C. in an oil bath for 10 minutes. The crude product was then evaporated to dryness, dissolved in a 1 mL of N,N-dimethylformamide and purified by purified by preparative HPLC using a gradient of 0-99% acetonitrile in water containing 0.05% trifluoroacetic acid to yield 1-(benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butyl-1-(1,3-dihydroxypropan-2-yl)-1H-indol-5-yl)cyclopropanecarboxamide. ESI-MS m/z calc. 450.2, found 451.5 (M+1)+. Retention time of 1.59 minutes.

reactant | 1-(Benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butyl-1-(1,3-dihydroxypropan-2-yl)indolin-5-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C1CC(N(C1=CC2)C(CO)CO)C(C)(C)C | C26H32N2O5
reactant | trifluoracetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2,3,5,6-tetrachlorocyclohexa-2,5-diene-1,4-dione | 0.14 mmol, 35 mg | ClC=1C(C(=C(C(C1Cl)=O)Cl)Cl)=O | C6Cl4O2
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butyl-1-(1,3-dihydroxypropan-2-yl)-1H-indol-5-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C1C=C(N(C1=CC2)C(CO)CO)C(C)(C)C | C26H30N2O5
